US04886817
To a solution of 150 g of 1-(3-pyridyl)-2-imidazolidinone dissolved in 1500 ml of N,N-dimethylformamide was added 40 g of sodium hydride (60% oily dispersion). After the mixture was stirred at room temperature for 10 minutes, 154 g of cinnamyl chloride (trans-form) was added dropwise under ice-cooling and the mixture was stirred for 2 hours. After addition of 10 ml of acetic acid, the solvent was distilled off under reduced pressure and to the residue was added water, followed by extraction with chloroform. After washing with saturated aqueous sodium hydrogen carbonate and saturated saline water, the extract was dried. Chloroform was distilled off, and isopropyl ester was added to the residue. The precipitated crystals were collected by filtration and recrystallized from ethanol to give 238.1 g of (E)-1-cinnamyl-3-(3-pyridyl)-2-imidazolidinone as colorless prisms.

reactant | 1-(3-pyridyl)-2-imidazolidinone | 150 g | N1=CC(=CC=C1)N1C(NCC1)=O | C8H9N3O
reactant | sodium hydride | 40 g | [H-].[Na+]
reactant | cinnamyl chloride | 154 g | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 1500 ml | CN(C=O)C | C3H7NO
product | (E)-1-cinnamyl-3-(3-pyridyl)-2-imidazolidinone | 238.1 g, Yield: 92.7% | C(\C=C\C1=CC=CC=C1)N1C(N(CC1)C=1C=NC=CC1)=O | C17H17N3O
